US05047554
5-Chloro-3-(5-bromo-2-furanoyl)-2-oxindole-1-carboxamide
Using the procedure of Example 32, 1.91 g (10.0 mmoless) of commercially available 5-bromo-2-furancarboxylic acid was dissolved in 10 ml of thionyl chloride and heated to reflux under nitrogen for 1 hour and the acid chloride product was recovered. A 40 ml N,N-dimethylformamide solution of 1.75 g (8.3 mmoles) of 5-chloro-2-oxindole-1-carboxamide and 3.05 g (25 mmoles) of 4-(N,N-dimethylamino)pyridine was reacted with 2.09 g (10 mmoles) of 5-bromo-2-furan carbonyl chloride in 10 ml of N,N-dimethylformamide. After a reaction time of about 45 minutes, the mixture was acidified by pouring into 250 ml of 1N HCl. The product was recrystallized from acetic acid, washed with acetic acid, then hexane and dried overnight in vacuo at room temperature. The resulting product then was dried over refluxing isopropanol under high vacuum to yield 1.37 g of the title compound.

reactant | 5-bromo-2-furancarboxylic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 5-chloro-2-oxindole-1-carboxamide | 8.3 mmoles, 1.75 g | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
reactant | 5-bromo-2-furan carbonyl chloride | 10 mmoles, 2.09 g | BrC1=CC=C(O1)C(=O)Cl | C5H2BrClO2
reactant | HCl | 1N, 250 ml | Cl | ClH
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | 4-(N,N-dimethylamino)pyridine | 25 mmoles, 3.05 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-3-(5-bromo-2-furanoyl)-2-oxindole-1-carboxamide | 1.37 g | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(=O)C=1OC(=CC1)Br | C14H8BrClN2O4
